US05191071
Preparation of isopropyl 6-O-octanoyl-α-D-glucopyranoside
To a stirred solution of isopropyl α-D-glucopyranoside (1.1 g, 5 mmol) and octanoic acid (0.9 g, 6.25 mmol) in 100 ml 2-butanone was added immobilized lipase (0.5 g Lipozyme™, see example 8). Stirring was continued at 60° C. for 48 hours. The enzyme was removed by filtration and the solvent was removed in vacuo followed by chromatography yielding 1.2 g (70%) of the product 1H NMR (400 MHz, CDCl3) δ: 0.88 (t, J=6.7 Hz, 3H); 1.19 (d, J=6.1 Hz, 3H); 1.24 (d, J=6.2 Hz, 3H); 1.28 (m, 8H); 1.62 (m, 2H); 2.34 (m, 2H); 3.35 (t, J=9.4 Hz, 1H); 3.50 (dd, J=4.0 and 9.5 Hz, 1H); 3.73 (t,J=9.3 Hz, 1 H); 3.85 (m, 1H); 3.92 (m, 1H) 4.35 (m, 2H); 4.96 (d, J=3.9 Hz, 1H).

reactant | isopropyl α-D-glucopyranoside | 5 mmol, 1.1 g | O([C@@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C(C)C | C9H18O6
reactant | octanoic acid | 6.25 mmol, 0.9 g | C(CCCCCCC)(=O)O | C8H16O2
reactant | Lipozyme | 0.5 g | C1CSSC1CCCCC(=O)N | C8H15NOS2
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
product | isopropyl 6-O-octanoyl-α-D-glucopyranoside | 1.2 g, 70% | C(CCCCCCC)(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](OC(C)C)O1)O)O)O | C17H32O7
